US05153203
7-(3-Pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride (Compound No. 1)
Ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3carboxylate (210 mg) was dissolved in a mixture consisting of 0.7 ml of concentrated hydrochloric acid and 2.8 ml of acetic acid. The resulting solution was heated under reflux for 3 hours. The reaction mixture was concentrated to dryness under reduced pressure. The residue was recrystallized from ethanol, whereby 60 mg of the title compound was obtained as crystals.

reactant | Ethyl 7-(1-t-butoxycarbonyl-3-pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3carboxylate | 210 mg | C(C)(C)(C)OC(=O)N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)OCC)=O)F | C24H29FN2O6
reactant | hydrochloric acid | 0.7 ml | Cl | ClH
solvent | acetic acid | 2.8 ml | C(C)(=O)O | C2H4O2
product | 7-(3-Pyrrolidinyloxy)-1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxoquinoline-3-carboxylic acid hydrochloride | 60 mg | Cl.N1CC(CC1)OC1=C(C=C2C(C(=CN(C2=C1)C1CC1)C(=O)O)=O)F | InChI=1S/C17H17FN2O4.ClH/c18-13-5-11-14(6-15(13)24-10-3-4-19-7-10)20(9-1-2-9)8-12(16(11)21)17(22)23;/h5-6,8-10,19H,1-4,7H2,(H,22,23);1H
